US04195081
Using the procedure of J. Org. Chem., Vol. 40, No. 17 (1975), p. 2525, 1-methyl-piperidone and 5-methoxy-1H-indole were condensed in refluxing acetic acid in the presence of phosphoric acid to obtain 5-methoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole melting at 235° C.

reactant | 1-methyl-piperidone | CN1C(CCCC1)=O | C6H11NO
reactant | 5-methoxy-1H-indole | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-methoxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | COC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C15H18N2O
